US07109225B2
d] (2-Cyclohexyl-5-methyl-oxazol-4-yl)-acetic acid
1.900 g of the above prepared (2-cyclohexyl-5-methyl-oxazol-4-yl)-acetonitrile (9.30 mmol) was dissolved in 21 ml EtOH/water=1/1 and treated with 5 eq. of NaOH-pellets (1.86 g). Hydrolysis was allowed to proceed over night at 60° C. After cooling, 25% HCl was added, followed by AcOEt. After separation of the two layers, the aq. phase was again extracted with AcOEt, the combined organic layers washed with water, dried over sodium sulfate, and evaporated to dryness to yield 1.920 g of the title acid as light-brown, waxy solid.

reactant | (2-cyclohexyl-5-methyl-oxazol-4-yl)-acetonitrile | 9.30 mmol | C1(CCCCC1)C=1OC(=C(N1)CC#N)C | C12H16N2O
reactant | NaOH | 5 eq. | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | EtOH water | 21 ml | CCO.O
product | (2-Cyclohexyl-5-methyl-oxazol-4-yl)-acetic acid | C1(CCCCC1)C=1OC(=C(N1)CC(=O)O)C | C12H17NO3
